US08440665B2
A solution of isopropyl 5-(4-cyclopropyl-1H-imidazol-1-yl)-2-methoxybenzoate (0.720 g, 2.4 mmol) in 2N hydrochloric acid (10 ml) was heated to 100° C. for 10 hours. The solvent was removed under reduced pressure to give 5-(4-cyclopropyl-1H-imidazol-1-yl)-2-methoxybenzoic acid (HCl salt) as a brown powder. (0.715 g, 2.4 mmol). 100% yield. 259 (M+1).

reactant | isopropyl 5-(4-cyclopropyl-1H-imidazol-1-yl)-2-methoxybenzoate | 2.4 mmol, 0.720 g | C1(CC1)C=1N=CN(C1)C=1C=CC(=C(C(=O)OC(C)C)C1)OC | C17H20N2O3
solvent | hydrochloric acid | 2N, 10 ml | Cl | ClH
product | 5-(4-cyclopropyl-1H-imidazol-1-yl)-2-methoxybenzoic acid | 100% yield | C1(CC1)C=1N=CN(C1)C=1C=CC(=C(C(=O)O)C1)OC | C14H14N2O3
